US08957080B2
To the solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (10 g, 65.12 mmol, 1.0 eq) and (S)-tert-butyl 3-hydroxypiperidine-1-carboxylate (13.0 g, 65.12 mmol, 1.0 eq) and PPh3 (34.20 g, 130.24 mmol, 2.0 eq) in THF (400 mL), DEAD (22.68 g, 130.24 mmol, 2.0 eq) was added at 0° C. The resulted mixture was stirred and warmed to RT for 12 h. The reaction mixture was purified by column (10% EtOAc in petroleum ether) to afford (R)-tert-butyl 3-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate (2.1 g, 10% in yield) as colorless oil.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 65.12 mmol, 10 g, 1.0 eq | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | (S)-tert-butyl 3-hydroxypiperidine-1-carboxylate | 65.12 mmol, 13.0 g, 1.0 eq | O[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | PPh3 | 130.24 mmol, 34.20 g, 2.0 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 130.24 mmol, 22.68 g, 2.0 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate | 2.1 g, 10% | ClC=1C2=C(N=CN1)N(C=C2)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C16H21ClN4O2
